US04490374
N-(3,4-Dimethoxyphenyl)-N'-propionylurea
A mixture of 3,4-dimethoxyphenylisocyanate (26.0 g, 145 mM) and propionamide (10.61 g, 145 mM) is heated at 160°-165° C. for 11/2 hours. A homogeneous pale yellow solution forms which after 15 minutes solidifies. The heating is discontinued and the flask is allowed to cool slowly. The mixture is triturated with acetone and this resulting white solid is filtered and dried. Yield: 32.45 g, mp 193°-197° C.

reactant | 3,4-dimethoxyphenylisocyanate | 145 mM, 26.0 g | COC=1C=C(C=CC1OC)N=C=O | C9H9NO3
reactant | propionamide | 145 mM, 10.61 g | C(CC)(=O)N | C3H7NO
product | N-(3,4-Dimethoxyphenyl)-N'-propionylurea | COC=1C=C(C=CC1OC)NC(=O)NC(CC)=O | C12H16N2O4
